US06252084B1
1-Cyclohexyl-5-hydroxy-2-methyl-1H-indole-3-acetamide (300 mg, 1.0 mmol) was reacted with 40 mg (1.0 mmol) of 60% NaH/mineral oil and then 0.143 mL (1.0 mmol) of ethyl 4-bromobutyrate as described in Example 50, Part D to give a product that was chromatographed on silica gel (eluted with 2% MeOH/methylene chloride) to give 190 mg (46% yield) of [4-[[3-(2-amino-2-oxoethyl)-1-cyclohexyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester, mp, 92-94(° C.

reactant | 1-Cyclohexyl-5-hydroxy-2-methyl-1H-indole-3-acetamide | 1.0 mmol, 300 mg | C1(CCCCC1)N1C(=C(C2=CC(=CC=C12)O)CC(=O)N)C | C17H22N2O2
reactant | NaH | 1.0 mmol, 40 mg | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 1.0 mmol, 0.143 mL | BrCCCC(=O)OCC | C6H11BrO2
product | 4-[[3-(2-amino-2-oxoethyl)-1-cyclohexyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester | 46% yield | C(C)OC(CCCOC=1C=C2C(=C(N(C2=CC1)C1CCCCC1)C)CC(=O)N)=O | C23H32N2O4
